US06566377B2
A round-bottomed flask was charged with 4-pyrazole-1-yl-phenol (175 mg, 1.09 mmol), and 3.6 ml of toluene, triphenylphosphine (430 mg, 1.64 mmol), and benzyl N-(2-hydroxyethyl)carbamate (320 mg, 1.64 mmol) were then added. The solution was cooled to 0° C. and 1,1′-(azodicarbonyl)-dipiperidine (414 mg, 1.64 mmol) was added. The mixture was allowed to stir for about ten minutes at about 0° C. and was then allowed to warm to room temperature. An additional 3.6 ml of toluene and 3.6 ml of tetrahydrofuran were added to the viscous solution. The reaction mixture was stirred for about forty-eight hours, and the precipitated solids were filtered off and washed with a minimum volume of 1:1 toluene/tetrahydrofuran. The filtrate was concentrated in vacuo to afford the intermediate [2-(4-pyrazole-1-yl-phenoxy)-ethyl]-carbamic acid benzyl ester as an oil which was used directly in the next step.

reactant | 4-pyrazole-1-yl-phenol | 1.09 mmol, 175 mg | N1(N=CC=C1)C1=CC=C(C=C1)O | C9H8N2O
reactant | triphenylphosphine | 1.64 mmol, 430 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | benzyl N-(2-hydroxyethyl)carbamate | 1.64 mmol, 320 mg | OCCNC(OCC1=CC=CC=C1)=O | C10H13NO3
reactant | 1,1′-(azodicarbonyl)-dipiperidine | 1.64 mmol, 414 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | tetrahydrofuran | 3.6 ml | O1CCCC1 | C4H8O
solvent | toluene | 3.6 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 3.6 ml | C1(=CC=CC=C1)C | C7H8
product | [2-(4-pyrazole-1-yl-phenoxy)-ethyl]-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NCCOC1=CC=C(C=C1)N1N=CC=C1)=O | C19H19N3O3
